US04816452
c. Ethyl (Z)-2-(4-methylenecyclohexyloxyimino)-2-(2-tritylaminothiazol-4-yl)acetate
4-Methylenecyclohexanol (412 mg), triphenylphosphine (860 mg), and ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate (1.37 g) were dissolved together in anhydrous benzene (9 ml). Dimethyl azodicarboxylate (0.40 ml) was added slowly with stirring and the resulting orange solution was stored at room temperature for 65 h with exclusion of moisture. Workup and chromatography as in example 4a, method 3 afforded the title compound (174 mg), δH (CDCl3) 1.33 (3H, t, J 7 Hz), 1.82, 2.08 and 2.31 (8H, 3m), 4.35 (2H, q, J 7 Hz), 4.51 (1H, m), 4.63 (2H, s), 6.48 (1H, s), 6.96 (1H, br s, D2O exch.), and 7.30 (15H, s).

reactant | 4-Methylenecyclohexanol | 412 mg | C=C1CCC(CC1)O | C7H12O
reactant | triphenylphosphine | 860 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate | 1.37 g | O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H23N3O3S
reactant | Dimethyl azodicarboxylate | 0.40 ml | N(=NC(=O)OC)C(=O)OC | C4H6N2O4
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
product | Ethyl (Z)-2-(4-methylenecyclohexyloxyimino)-2-(2-tritylaminothiazol-4-yl)acetate | 174 mg | C=C1CCC(CC1)O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H33N3O3S
